US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-ethenyl-3-methylpyrazole
To a stirred solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-3-methylpyrazole (2.06 g) in dimethylformamide (25 ml) was added tetrakis(triphenylphosphine)palladium(0) (0.1 g) and vinyltri-n-butyltin (2 ml). The mixture was heated at 70° C. for 2 hours. The reaction mixture was eyaporated and then partitioned between water and ether. The aqueous layer was separated and extracted twice with ether. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The residue was purified by column chromatigraphy on silica gel eluted with hexane: ether (9:1). Combination and evaporation of appropriate fractions gave a yellow solid which was further purified by reverse phase high performance chromatography on C18 silica eluted with acetonitrile: methanol: water (40:10:50). Combination and evaporation of appropriate fractions gave the title compound as a white solid, m.p.68.1-68.7° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-3-methylpyrazole | 2.06 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)I)C | C11H6Cl2F3IN2
reactant | vinyltri-n-butyltin | 2 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-ethenyl-3-methylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C=C)C | C13H9Cl2F3N2
